US04065567
Preparation of 2-(2-Cyclohexylamino-5-thiadiazolyl)-1-methyl-5nitroimidazole
A mixture of 5.0 g. of 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole, 6.0 g. of cyclohexylamine and 125 ml. of dioxane is stirred at reflux until thin-layer chromatographic analysis indicates that the chloro intermediate is completely utilized. The dioxane is removed under reduced pressure and the residue triturated with aqueous sodium bicarbonate solution. Recrystallization from a mixture of ethylacetate and acetone yields the pure compound melting at 215°-217° C.

reactant | 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole | ClN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6ClN5O2S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(2-Cyclohexylamino-5-thiadiazolyl)-1-methyl-5nitroimidazole | C1(CCCCC1)NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C12H18N6O2S
